Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins / Tetanus / Gentamicin
 
Attending: ___.
 
Chief Complaint:
Fever, altered mental status, cough, and emesis
 
Major Surgical or Invasive Procedure:
No major procedures.

 
History of Present Illness:
___ male with PMH of progressive Alzheimer's dementia, 
HTN/HLD, CAD, PVD, pituitary adenoma currently living at a 
skilled nursing facility who presents to ___ with fever, 
altered mental status, and cough. Per his family who is present, 
yesterday he was noted to have a fever at the facility, altered 
off baseline, coughing, is breathing through his mouth (not 
usual) and has vomited yesterday and today. In addition, there 
were other patients who were ill and being treated for PNA at 
the nursing facility where the patient resides. Pt WBC was 19.2 
He received levofloxacin yesterday. Family denies any knowledge 
of falls, he is not on anticoagulation. Family states that pt 
was transferred here, because the medical team at the nursing 
facility was concerned that pt may require IV antibx, which the 
nursing facility does not offer.

Pt was last hospitalized in ___ for hospital acquired 
pneumonia, which was treated with vanc/levo/metro and narrowed 
to levo/metro.

Pertinent ED course (including exam, labs, imaging, consults, 
treatment):
- NS 1000 mL IV started
 
REVIEW OF SYSTEMS: deferred as pt is not conversant
 
Past Medical History:
CAD stent in LCx, EF normal  
PVD with carotid artery stenosis (severe R, mild L)  
HTN
Hyperlipidemia  
Pituitary macroadenoma - stable, hormone testing normal  
Cognitive Impairment, Memory Loss (short term) 
Sleep Disordered Breathing  
Low back pain with lumbar radiculopathy  
Left knee replacement  
Asbestosis exposure with stable Chest CT  
 
Social History:
___
Family History:
His father died at age ___ of unknown causes. 
Mother died in her ___ of lung cancer.  He has one brother, 
three
sisters, one son, and one daughter.  His sister suffered from a
TIA.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
============================
VITALS: 99.0 Pediatric Axillary, 141/72 L Lying, 92, 20, 94% Ra 
GENERAL: NAD, raspy mouth breathing, not opening eyes on 
command, pulling at covers, nonconversant
EYES: pink conjunctiva, exam limited by pt's AMS
ENT: trachea midline, soft neck, no JVD, nonelevated JVP
CV: distant heart sounds, RRR, no murmurs, rubs, or gallops
RESP: tachypneic, +coughing and ronchi, no wheezes; exam limited 
by pt's AMS and moving around/inability sit up
GI: +BS, nondistended, soft, nontender to palpation in all four 
quadrants
MSK: moving all quadrants appropriately
SKIN: no rashes or lesions
NEURO: squeezes fingers on command, exam limited by pt's AMS
PSYCH: exam limited by pt's AMS

DISCHARGE PHYSICAL EXAM:
=============================
VS: T 98.5 130/77 92 18 95% RA 
GENERAL: In no distress, opens his eyes to verbal prompting and
responds minimally with "yes" or "no"
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, sclera white,
conjunctiva clear, unable to assess dentition as patient could
not open his mouth  
NECK: Nontender supple neck, no LAD
HEART: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNGS: Shallow breathing, unable to assess for crackles in the
base as patient was unable to sit up 
ABDOMEN: nondistended, active bowel sounds, no tenderness to
palpation, rebound, or guarding, no organomegaly
EXTREMITIES: No cyanosis, clubbing or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII grossly intact, unable to assess orientation.
SKIN: Warm, well perfused, no excoriations or lesions, no
rashes  

 
Pertinent Results:
ADMISSION LABS:
==========================
___ 03:40PM   WBC-15.4* RBC-4.63# HGB-12.2*# HCT-40.5# 
MCV-88 MCH-26.3 MCHC-30.1* RDW-14.6 RDWSD-46.7*
___ 03:40PM   ALBUMIN-3.3*
___ 03:40PM   LIPASE-10
___ 03:40PM   ALT(SGPT)-10 AST(SGOT)-21 ALK PHOS-286* TOT 
BILI-0.4
___ 03:40PM   GLUCOSE-102* UREA N-21* CREAT-1.1 SODIUM-145 
POTASSIUM-4.4 CHLORIDE-111* TOTAL CO2-21* ANION GAP-17
___ 03:56PM   LACTATE-1.5
___ 04:20PM URINE  RBC-4* WBC-13* BACTERIA-FEW* YEAST-NONE 
EPI-2
___ 04:20PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM*
___ 04:20PM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 03:40PM   ___ PTT-27.8 ___
___ 03:40PM   PLT SMR-NORMAL PLT COUNT-191
___ 03:40PM   HYPOCHROM-NORMAL ANISOCYT-NORMAL 
POIKILOCY-OCCASIONAL MACROCYT-NORMAL MICROCYT-NORMAL 
POLYCHROM-NORMAL OVALOCYT-OCCASIONAL

PERTINENT LABS:
==========================
___ 08:00AM BLOOD WBC-11.6* RBC-4.17* Hgb-11.2* Hct-37.2* 
MCV-89 MCH-26.9 MCHC-30.1* RDW-14.6 RDWSD-47.1* Plt ___
___ 08:00AM BLOOD Glucose-83 UreaN-19 Creat-1.0 Na-150* 
K-4.0 Cl-114* HCO3-24 AnGap-16
___ 08:00AM BLOOD Calcium-9.8 Phos-2.2* Mg-2.2

DISCHARGE LABS:
==========================
___ 08:05AM BLOOD WBC-9.8 RBC-3.78* Hgb-10.1* Hct-33.0* 
MCV-87 MCH-26.7 MCHC-30.6* RDW-14.6 RDWSD-46.5* Plt ___
___ 08:05AM BLOOD Plt ___
___ 01:55PM BLOOD Na-145
___ 08:05AM BLOOD Glucose-105* UreaN-17 Creat-1.0 Na-145 
K-3.5 Cl-111* HCO3-22 AnGap-16
___ 08:05AM BLOOD Calcium-9.4 Phos-2.5* Mg-2.1

MICROBIOLOGY:
==========================
Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.

URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION.

PERTINENT IMAGING/STUDIES:
==========================
___ CXR: Increased left lower lobe opacity, worrisome for 
pneumonia with possible associated left pleural effusion. 
Aspiration is also in the differential diagnosis.
 Reticular right base opacity could be due to chronic 
aspiration, and is
slightly decreased as compared to the prior study.

 
Brief Hospital Course:
Mr. ___. is an ___ male with PMH of progressive 
Alzheimer's dementia who presented from SNF with fever, altered 
mental status, cough and emesis. He had already been empirically 
started with levofloxacin at his nursing facility but given 
increasing lethargy, he was transferred to ___ for further 
management.

ACUTE ISSUES:
===============================
# Pneumonia: His presenting symptoms of fever, altered mental 
status, and confusion were likely related to a pneumonia as 
confirmed by CXR. There was high suspicion for aspiration 
pneumonia in setting of Alzheimer's and recent emesis. Swallow 
team was consulted and found no overt signs or symptoms of 
aspiration, and he was kept on his prior to admission diet. He 
was maintained on his outpatient antibiotic regimen 
(levofloxacin), and his presenting leukocytosis seems to be 
responding to antibiotics. His family noted that he was at 
baseline mental status prior to discharge. On levofloxacin 
antibiotic regimen (start date ___ complete date ___.

#Hypernatremia: Patient was found to have a sodium of 150 mEq/L 
on ___. Started on D5W 1000 mL at 100 mL/hr. Corrected from 150 
mEq/L to 145 mEq/L on discharge.

# Progressive alzhemier's dementia: Patient's dementia seems to 
have worsened significantly over last 6 months. Per family, 
patient was independent and verbal in ___ but has 
become increasingly nonverbal over last 6 months. In the week 
preceding admissionften does not respond. He enjoys reading and 
still reads articles. He was maintained on outpatient 
Cyanocobalamin 500 mcg PO DAILY and Donepezil 5 mg PO QHS. 

# Malnutrition: Patient has poor oral intake and is not meeting 
nutritional goals. At nursing facility he eats pureed foods and 
thickened liquids, which was continued during this 
hospitalization alongside supplemental Ensure Enlive and 
multivitamin with minerals. Per swallow team, he retains a lot 
of food in his mouth after meals, so it is important to ensure 
mouth cleared at end of each meal.

CHRONIC ISSUES:
========================================
#Elevated alkaline phosphate: Alk phos was elevated to 286 upon 
admission without elevation of other liver enzymes. Of note, it 
was previously elevated to 187 during last admission as well in 
___. It is likely bone origin given lack of transaminitis and 
patient's history of hyperparathyroidism. His Ca level was 10.2 
on ___ per outside records. No further management during this 
hospitalization.

# CAD: Patient has a history of coronary artery disease, s/p LCx 
DES ___. His most recent echocardiogram in ___ shows 
mild LVH, LVEF >=55%, mildly dilated ascending aorta (3.6 cm), 
1+TR, and normal pulmonary artery systolic pressure. He was 
maintained on outpatient aspirin 81mg daily.

# Pituitary adenoma: CT from ___ showed persistent expansion 
of the sella with soft tissue consistent with patient's 
previously diagnosed pituitary macroadenoma. Not actively 
managed during hospitalization.

#Constipation: Patient did not have any issues with bowel 
movements during admission and was maintained on outpatient 
bowel regimen of Docusate Sodium 100 mg PO BID, Senna 8.6, and 
Polyethylene Glycol 17 g PO/NG DAILY 

==================================
TRANSITIONAL ISSUES:
==================================
[ ] Patient should complete 7-day course of levofloxacin on 
___.
[ ] Follow up sodium in ___ days and increase PO free water if 
mildly rising. If markedly rising, consider D5W infusion if able 
or transfer for management of hypernatremia if within patient's 
goals of care.
[ ] Per swallow team, he retains a lot of food in his mouth 
after meals, so it is important to ensure mouth cleared at end 
of each meal.

Na at discharge: 145

#CONTACT: wife  Phone: ___
- ___
#CODE: DNR-DNI
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Cyanocobalamin 500 mcg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Donepezil 5 mg PO QHS 
5. Polyethylene Glycol 17 g PO DAILY 
6. Senna 8.6 mg PO BID 
7. Bisacodyl ___VERY 3 DAYS AS NEEDED constipation 
8. magnesium hydroxide 400 mg/5 mL oral DAILY:PRN constipation 

 
Discharge Medications:
1.  Levofloxacin 750 mg PO DAILY 
Stop date: ___.  
2.  Multivitamins W/minerals 1 TAB PO DAILY  
3.  Aspirin 81 mg PO DAILY  
4.  Bisacodyl ___VERY 3 DAYS AS NEEDED constipation  
5.  Cyanocobalamin 500 mcg PO DAILY  
6.  Docusate Sodium 100 mg PO BID  
7.  Donepezil 5 mg PO QHS  
8.  magnesium hydroxide 400 mg/5 mL oral DAILY:PRN constipation  

9.  Polyethylene Glycol 17 g PO DAILY  
10.  Senna 8.6 mg PO BID  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
___ Diagnosis:
PRIMARY DIAGNOSIS: 
========================= 
Pneumonia (nursing home-associated) 
 
SECONDARY DIAGNOSIS: 
========================= 
Progressive Alzheimer's dementia 
Malnutrition 
Hypernatremia 

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Lethargic but arousable.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
Dear Mr. ___,

WHY WERE YOU ADMITTED?
- You were admitted for fever, confusion, and cough with 
vomiting. We diagnosed you with pneumonia.

WHAT WAS DONE FOR YOU IN THE HOSPITAL?
- You were continued on your oral antibiotics.
- You did not need to be started on IV antibiotics.

WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
- It is important that you complete your antibiotic course (5 
days, complete on ___.

It was a pleasure taking care of you!
- Your ___ Team
 
Followup Instructions:
___